US07807672B2
To the suspension of 1-benzyloxy-4-nitro-2-trifluoromethylbenzene (575 mg, 1.96 mmol) in methanol was added catalytic amount of 5% palladium on carbon under a hydrogen atmosphere. The mixture was stirred for 4 hrs and filter through celite. The filtrate was concentrated to afford 4-amino-2-trifluoromethylphenol (311 mg, 90%).

reactant | 1-benzyloxy-4-nitro-2-trifluoromethylbenzene | 1.96 mmol, 575 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H10F3NO3
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-amino-2-trifluoromethylphenol | 311 mg, 90% | NC1=CC(=C(C=C1)O)C(F)(F)F | C7H6F3NO
